US04925865
460 mg (0.5 mmol) of tris-triphenylphosphine rhodium chloride (=1 mol %, with reference to the reaction components) is added to a 100 ml autoclave. After purging with nitrogen, an air-free solution of 12 g (0.05 mol) of 1-chlorocyclopropyl 4-chlorophenylethenyl ketone in 40 ml of toluene is added and heated at 50° C. under a hydrogen pressure of 30 bar. The hydrogen pressure is kept between 40 and 50 bar until the absorption of gas is complete (after about 1 hour). The mixture is subsequently allowed to react for 1 hour. For working up, the solvent is removed under reduced pressure and the residue which remains is purified on silica gel using dichloromethane as the eluant. 11 g (90% of theory) of 1-chlorocyclopropyl 4-chlorophenylethyl ketone are obtained in the form of an oily product.

reactant | 1-chlorocyclopropyl 4-chlorophenylethenyl ketone | 0.05 mol, 12 g | ClC1=CC=C(C=C1)C=CC(=O)C1(CC1)Cl | C12H10Cl2O
reactant | hydrogen | [H][H] | H2
solvent | toluene | 40 ml | C1(=CC=CC=C1)C | C7H8
product | 1-chlorocyclopropyl 4-chlorophenylethyl ketone | 11 g, 90% | ClC1=CC=C(C=C1)CCC(=O)C1(CC1)Cl | C12H12Cl2O
